US05284971
Methyl 3,5-dibromo-4-(3-isopropyl-4-methoxyphenylsulfonyl)phenylacetate (0.6 g), prepared by the method of Example 1, was treated with KOH in 10% aqueous MeOH for 0.5 hour, acidified and the product collected by filtration, washed with water, and dried in a vacuum oven to yield 3,5-dibromo-4-(3-isopropyl-4-methoxyphenylsulfonyl)phenylacetic acid. MP 170°-173° C.

reactant | Methyl 3,5-dibromo-4-(3-isopropyl-4-methoxyphenylsulfonyl)phenylacetate | 0.6 g | BrC=1C=C(C=C(C1S(=O)(=O)C1=CC(=C(C=C1)OC)C(C)C)Br)CC(=O)OC | C19H20Br2O5S
reactant | KOH | [OH-].[K+]
solvent | MeOH | CO | CH4O
product | 3,5-dibromo-4-(3-isopropyl-4-methoxyphenylsulfonyl)phenylacetic acid | BrC=1C=C(C=C(C1S(=O)(=O)C1=CC(=C(C=C1)OC)C(C)C)Br)CC(=O)O | C18H18Br2O5S
